US06303790B1
0.51 ml (6.98 mMol) Thionylchloride and 10 □l DMF were added to a suspension of 1.0 g (6.34 mMol) 6-chloronicotinic acid in 5 ml tetrahydrofuran. The reaction mixture was stirred at 65° C. for 1.5 hours, cooled to 0° C. and 1.98 ml (19.0 mMol) diethylamine were added over 40 minutes. The resulting suspension was stirred 4 hours at room temperature and 1 hour at 60° C. After cooling to room temperature, 5.0 ml aqueous NaOH 2N were added and stirring pursued for 30 minutes. The system was diluted with 25 ml deionized water and 20 ml ethyl acetate. The phases were separated and the aqueous phase was further extracted with ethyl acetate. The combined organic extracts were washed with aqueous NaOH 1N and half-saturated aqueous NaCl, dried (Na2SO4) and evaporated to yield 0.68 g (50%) 6-chloro- N,N-diethyl-nicotinamide as a yellow oil.

reactant | Thionylchloride | 6.98 mMol, 0.51 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 6-chloronicotinic acid | 6.34 mMol, 1.0 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | diethylamine | 19.0 mMol, 1.98 ml | C(C)NCC | C4H11N
reactant | NaOH | 2N, 5.0 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-chloro- N,N-diethyl-nicotinamide | 0.68 g, 50% | ClC1=NC=C(C(=O)N(CC)CC)C=C1 | C10H13ClN2O
